US08242129B2
(E)-N-(3-methyl-4-(3-(3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl)acryloyl)-phenyl)acetamide
To a solution of (E)-N-(4-(3-(4-hydroxy-3-methylphenyl)acryloyl)-3-methylphenyl)acetamide (100 mg, 0.32 mmol) in DCM was added 300 mg of H2SO4/SiO2 (cat. amount), and 3,4-dihydro-2H-pyran (500 mg, 5.9 mmol). The reaction mixture was stirred for 1 h at room temperature. The resulting slurry was filtered, concentrated under reduced pressure, and the product was purified by column chromatography (EtOAc/Hex, 10% to 50% gradient), resulting in 80 mg (78%) of the title compound. MS (EI) for C24H27NO4: 394 (MH+).

reactant | (E)-N-(4-(3-(4-hydroxy-3-methylphenyl)acryloyl)-3-methylphenyl)acetamide | 0.32 mmol, 100 mg | OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C=C(C=C1)NC(C)=O)C)C | C19H19NO3
reactant | 3,4-dihydro-2H-pyran | 5.9 mmol, 500 mg | O1CCCC=C1 | C5H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-N-(3-methyl-4-(3-(3-methyl-4-(tetrahydro-2H-pyran-2-yloxy)phenyl)acryloyl)-phenyl)acetamide | 80 mg, 78% | CC=1C=C(C=CC1C(\C=C\C1=CC(=C(C=C1)OC1OCCCC1)C)=O)NC(C)=O | C24H27NO4
